US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3-methylphenethyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.5 g--see Preparation 8), 3-methylphenethylbromide (0.36 g--see J. Ind. Chem. Sac., 40, 327, (1963)) , anhydrous potassium carbonate (0.5 g) and acetonitrile (10 ml) was heated under reflux for 4 hours. On cooling to room temperature, water (60 ml) was added and the mixture was extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (2% up to 4%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield, 0.17 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.5 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 3-methylphenethylbromide | 0.36 g | CC=1C=C(CCBr)C=CC1 | C9H11Br
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 60 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3-methylphenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC(=CC=C1)C | C27H30N2O
